US06255333B1
3-Cyano4-(2,2-dichloroethenyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
A solution of triphenylphosphine (0.983 g) and carbon tetrachloride (0.145 ml) in anhydrous dichloromethane (5 ml) at 0° C. was stirred for 5 minutes. 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-formylpyrazole (0.25 g) was then added and the mixture was heated under reflux for 5 hours and then evaporated. The residue was purified by column chromatography on silica gel eluting with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p. 99-101° C.

reactant | triphenylphosphine | 0.983 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 0.145 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-formylpyrazole | 0.25 g | C(#N)C1=NN(C=C1C=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H4Cl2F3N3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-Cyano4-(2,2-dichloroethenyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | C(#N)C1=NN(C=C1C=C(Cl)Cl)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H4Cl4F3N3
